US05416089
Part A: 7-Hydroxy-7-methyl-7,8,9,10-tetrahydroacephenanthrene
Methylmagnesium iodide in ether (1.51 mL of 3.0M) was added slowly to an ice bath cooled suspension of 7,8,9,10-tetrahydroacephenanthren-7-one (Scott, L. T.; Reinhardt, G.; Roelofs, N. H. J. Org. Chem. 1985, 50, 5886) (0.25 g, 1.13 mmol) in ether (10 mL). The bath was removed and the reaction mixture was allowed to warm to room temperature over 1.5 h. The reaction mixture was again cooled to 0° C. and quenched with saturated aqueous ammonium chloride solution. The reaction mixture was concentrated under reduced pressure. The resulting solid was purified via flash chromotography to give 0.17 g (62%) of a crystalline solid: MS (CI) m/e (%) 239 (M+H+, 100); 1H NMR (CDCl3, 300 MHz) δ 7.64 (d, 1H, J=8.0 Hz), 7.57 (s, 1H), 7.46 (t, 1H, J=8.4 Hz), 7.28 (d, 1H, J=6.6 Hz), 3.37 (s, 4H), 3.08 (m, 2H), 2.02 (m, 4H), 1.80 (s, 1H), 1.63 (s, 3H).

reactant | Methylmagnesium iodide | C[Mg]I
reactant | 7,8,9,10-tetrahydroacephenanthren-7-one | 1.13 mmol, 0.25 g | C1=CC=C2CCC3=CC=4C(CCCC4C1=C23)=O | C16H14O
solvent | ether | 3.0M, 1.51 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 7-Hydroxy-7-methyl-7,8,9,10-tetrahydroacephenanthrene | 0.17 g, 62% | OC1(C=2C=C3CCC4=CC=CC(C2CCC1)=C43)C | C17H18O
